US09290454B2
TFA (1 mL, 12.98 mmol) was added to a stirred, room temperature mixture of (R)-tert-butyl 5-(2-(4-fluorophenyl)-6-(4-(4-fluorophenyl)-2-methylpiperazine-1-carbonyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate (58 mg, 0.094 mmol) in dichloromethane (4 mL) and the mixture was stirred at room temperature for 2 hours. The mixture was concentrated to dryness, the residue was purified via PTLC (Emerck 1 mm), eluted with CH2Cl2/MeOH=10:1 to give (R)-5-(2-(4-fluorophenyl)-6-(4-(4-fluorophenyl)-2-methylpiperazine-1-carbonyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoic acid (46 mg, 0.082 mmol) as a light yellow solid. LCMS [M+H]+=560. 1H NMR (500 MHz, CDCl3) δ ppm: 8.43 (d, J=8.28 Hz, 1H), 7.56 (d, J=1.32 Hz, 1H), 7.44 (dd, J=8.28, 1.32 Hz, 1H), 7.26 (m, 2H), 7.25 (m, 2H), 6.96-7.07 (m, 2H), 6.86-6.93 (m, 2H), 6.48 (s, 1H), 3.52 (m, 3H), 2.96 (m, 1H), 2.79 (m, 1H), 2.31 (m, 4H), 1.55-1.68 (m, 6H), 1.50 (d, 3H).

reactant | TFA | 12.98 mmol, 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | (R)-tert-butyl 5-(2-(4-fluorophenyl)-6-(4-(4-fluorophenyl)-2-methylpiperazine-1-carbonyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoate | 0.094 mmol, 58 mg | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2C=C1CCCCC(=O)OC(C)(C)C)C(=O)N1[C@@H](CN(CC1)C1=CC=C(C=C1)F)C)=O | C36H39F2N3O4
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (R)-5-(2-(4-fluorophenyl)-6-(4-(4-fluorophenyl)-2-methylpiperazine-1-carbonyl)-1-oxo-1,2-dihydroisoquinolin-3-yl)pentanoic acid | 0.082 mmol, 46 mg | FC1=CC=C(C=C1)N1C(C2=CC=C(C=C2C=C1CCCCC(=O)O)C(=O)N1[C@@H](CN(CC1)C1=CC=C(C=C1)F)C)=O | C32H31F2N3O4
